US09376443B2
2-tert-Butyldimethylsilyloxymethyl-6-(1-methoxy-1-methylethyl)pyridine
NaH (285 mg, 7.12 mmol) was added portionwise to a stirred solution of 2-tert-butyldimethylsilyloxymethyl-6-(1-hydroxy-1-methylethyl)pyridine (2.0 g, 7.12 mmol) in DMF (30 mL) at room temperature. After 20 min, methyl iodide (1.33 mL, 21.4 mmol) was added, the mixture was warmed to 50° C. and stirred for 16 h at this temperature. The mixture was poured onto water, extracted with EtOAc (×3), the combined extracts were dried (MgSO4), filtered evaporated and the residue purified by column chromatography (20:1 to 10:1, isohexane:EtOAc) to give the title compound (1.20 g, 57%) as a colorless oil; NMR δH (400 MHz, CDCl3) 7.69-7.65 (1H, m), 7.38-7.34 (2H, m), 4.81 (2H, s), 3.15 (3H, s), 1.53 (6H, s), 0.96 (9H, s), 0.12 (6H, s).

reactant | NaH | 7.12 mmol, 285 mg | [H-].[Na+]
reactant | 2-tert-butyldimethylsilyloxymethyl-6-(1-hydroxy-1-methylethyl)pyridine | 7.12 mmol, 2.0 g | [Si](C)(C)(C(C)(C)C)OCC1=NC(=CC=C1)C(C)(C)O | C15H27NO2Si
reactant | methyl iodide | 21.4 mmol, 1.33 mL | CI | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-tert-Butyldimethylsilyloxymethyl-6-(1-methoxy-1-methylethyl)pyridine | 1.20 g, 57% | [Si](C)(C)(C(C)(C)C)OCC1=NC(=CC=C1)C(C)(C)OC | C16H29NO2Si
